US06660759B1
To a solution of benzyl (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate (350 mg) in MeOH (15 mL) was added 10%Pd-C (wet) (50 mg), and the mixture was stirred under hydrogen atmosphere at room temperature for 1 hour. The catalyst was removed by filtration and the filtrate was evaporated to give (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidin-4-ol (236.8 mg).

reactant | benzyl (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate | 350 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C27H24N2O4
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd-C | 50 mg | [Pd] | Pd
product | (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)pyrrolidin-4-ol | 236.8 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@H]1NC[C@@H](C1)O | C19H18N2O2
